US04219657
(B) 8-methyl-1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester
To 130 g. of polyphosphoric acid contained in a 500 ml. three-necked flask provided with a stirrer and condenser, was added 13 g. of 3-(4-methylphenylthio)-4-ketocyclohexanecarboxylic acid ethyl ester. The mixture was heated on a steam bath for 90 minutes and then poured onto a mixture of 200 g. of ice and 200 ml. of water. The mixture was stirred until the dark oily complex was decomposed, and a light yellow color appeared. The product was extracted with ether, and the solution then washed with water until it was neutral. After drying over anhydrous potassium carbonate, the ether was distilled off on the steam bath, and the residue was crystallized from methanol. The yield of 8-methyl-1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester, m.p. 68°-69°, was 6 g.

reactant | 3-(4-methylphenylthio)-4-ketocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)SC1=CC=C(C=C1)C | C16H20O3S
solvent | water | O | H2O
product | 8-methyl-1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2=C(SC3=C2C=C(C=C3)C)C1 | C16H18O2S
